US09056858B2
Synthesis of 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid (14)
To a solution of 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester (0.650 g, 1.51 mmol) in a mixture of THF/methanol/water (22.5 mL, 3:1:1) is added LiOH.H2O (253 mg, 6.04 mmol). After 3 hours, the reaction mixture is neutralized with glacial acetic acid and concentrated in vacuo. The residue is dissolved in a solution of 20% methanol in methylene chloride (100 mL). Water (100 mL) is added and the mixture is acidified to pH 4 with 2M aqueous hydrochloric acid. Phases are separated, and the aqueous layer is extracted with 20% methanol in methylene chloride (9×100 mL). The combined organic layers are dried over MgSO4, filtered and concentrated to approximately 50 mL. The resulting crystallized solids are filtered, washed with cold methanol (3×2 mL) and air dried to afford the title compound as a solid.

reactant | 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester | 1.51 mmol, 0.650 g | COC(C1=CC(=CC=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)=O | C24H19FN4O3
reactant | LiOH.H2O | 6.04 mmol, 253 mg | O[Li].O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF methanol water | 22.5 mL | C1CCOC1.CO.O
product | 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)NC2(CC2)C=2C=C(C(=O)O)C=CC2 | C23H17FN4O3
